US05962457
To a mixture of fused zinc chloride (0.551 g, 4.04 mmol) and dioxane (20 mL) was added 5-methyl-6-o-tolyl-3,6-dihydro-[1,2,3]triazolo[4,5-d]pyrimidin-7-one (0.488 g, 2.02 mmol), 2-pyridinecarboxaldehyde (0.58 mL, 6.06 mmol), and acetic anhydride (0.57 mL, 6.06 mmol). The mixture was heated to 70° C. for 6 hours, cooled, and quenched with saturated sodium bicarbonate. This mixture was stirred overnight at ambient temperature. The dioxane was removed at reduced pressure and the resulting black liquid was extracted with methylene chloride. The organic phase was dried over magnesium sulfate, treated with activated carbon, filtered, and concentrated. The residue (1.5 g) was flash chromatographed on silica gel (50 g). Elution with 50% and 60% ethyl acetate/hexane gave 5-(2-pyridin-2-yl-vinyl)-6-o-tolyl-3,6-dihydro-[1,2,3]triazolo[4,5-d]pyrimidin-7-one (0.023 g, 3.5%).

reactant | 5-methyl-6-o-tolyl-3,6-dihydro-[1,2,3]triazolo[4,5-d]pyrimidin-7-one | 2.02 mmol, 0.488 g | CC=1N(C(C2=C(N1)NN=N2)=O)C2=C(C=CC=C2)C | C12H11N5O
reactant | 2-pyridinecarboxaldehyde | 6.06 mmol, 0.58 mL | N1=C(C=CC=C1)C=O | C6H5NO
reactant | acetic anhydride | 6.06 mmol, 0.57 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 5-(2-pyridin-2-yl-vinyl)-6-o-tolyl-3,6-dihydro-[1,2,3]triazolo[4,5-d]pyrimidin-7-one | 0.023 g, 3.5% | N1=C(C=CC=C1)C=CC=1N(C(C2=C(N1)NN=N2)=O)C2=C(C=CC=C2)C | C18H14N6O
